US04562187
(5-(Morpholin-4-yl)methylisoxazol-3-yl]-4-fluorophenylmethanone
A solution of 4.5 g of (5-bromomethylisoxazol-3-yl-4-fluorophenylmethanone in 100 ml of Et2O was added dropwise to a solution of 7 ml of morpholine in 300 ml of 50% acetone/Et2O. The resulting mixture was stirred at room temperature for 20 hours. This mixture was filtered and the volatiles evaporated to give a residue which was dissolved in 600 ml of Et2O. The organic solution was washed with water until it became neutral and then with saturated NaCl, and dried over Na2SO4 and concentrated in vacuo to give 4.3 g of a crystalline solid. A 3.6 g sample of the amine was recrystallized from 65 ml of 8% toluene/hexane to yield 2.4 g (64%) of crystals, m.p. 72°-74°.

reactant | 5-bromomethylisoxazol-3-yl-4-fluorophenylmethanone | BrCC1=CC(=NO1)C(=O)C1=CC=C(C=C1)F | C11H7BrFNO2
reactant | morpholine | 7 ml | N1CCOCC1 | C4H9NO
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | acetone Et2O | 300 ml | CC(=O)C.CCOCC
solvent | Et2O | 600 ml | CCOCC | C4H10O
product | (5-(Morpholin-4-yl)methylisoxazol-3-yl]-4-fluorophenylmethanone | 4.3 g | N1(CCOCC1)CC1=CC(=NO1)C(=O)C1=CC=C(C=C1)F | C15H15FN2O3
